US07465730B2
Utilizing the general procedure outlined in Example 48, 1,1,2,2-tetraacetylethane (308 mg, 1.56 mol), (5-amino-2-ethoxy-phenyl)-methanol (250 mg, 1.0 mmol) and hydrazine (100 μL) reacted to give [2-ethoxy-5-(1,4,5,7-tetramethyl-pyrrolo[3,4-d]pyridazin-6-yl)-phenyl]-methanol as yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.24 (s, 1H), 7.08-7.01 (m, 2H), 4.81 (s, 2H), 4.18 (q, 2H), 2.77 (s, 6H), 2.43 (s, 6H), 1.51 (t, 3H); MS (ESI) 326 (M+H)+.

reactant | 1,1,2,2-tetraacetylethane | 1.56 mol, 308 mg | C(C)(=O)C(C(C(C)=O)C(C)=O)C(C)=O | C10H14O4
reactant | (5-amino-2-ethoxy-phenyl)-methanol | 1.0 mmol, 250 mg | NC=1C=CC(=C(C1)CO)OCC | C9H13NO2
reactant | hydrazine | 100 μL | NN | H4N2
product | [2-ethoxy-5-(1,4,5,7-tetramethyl-pyrrolo[3,4-d]pyridazin-6-yl)-phenyl]-methanol | C(C)OC1=C(C=C(C=C1)N1C(=C2C(=NN=C(C2=C1C)C)C)C)CO | C19H23N3O2
